US08039479B2
A mixture of 5.09 g 2-chloro-4-isopropoxy-5-nitrotoluene (0.02216 mol), 6.20 g (0.02437 mol) of pinacol diborane, 595 mg (0.00212 mol) of PCy3, 1.014 g (0.00108 mol) of Pd2 dba3 and 3.16 g (0.0322 mol) of KOAc in 100 ml of dry dioxane is heated to 100° C. overnight. After cooling to RT, the dark solution is filtered over Celite and the solvent evaporated under reduced pressure. The crude oil is purified with silica gel column chromatography (eluent: 95/5 hexanes/EtOAc) to afford 2-methyl-4-nitro-5-isopropoxy-phenylboronic acid pinacol ester as an oil that solidifies upon standing. 1H NMR (CDCl3, 400 Mz): 7.51 (s, 1H), 7.44 (s, 1H), 4.70 (m, 1H), 2.48 (s, 3H), 1.36 (d, J=7.6 Hz, 6H), 1.35 (s, 12H).

reactant | 2-chloro-4-isopropoxy-5-nitrotoluene | 0.02216 mol, 5.09 g | ClC1=C(C=C(C(=C1)OC(C)C)[N+](=O)[O-])C | C10H12ClNO3
reactant | pinacol diborane | 0.02437 mol, 6.20 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | PCy3 | 0.00212 mol, 595 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | KOAc | 0.0322 mol, 3.16 g | CC(=O)[O-].[K+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
catalyst | Pd2 dba3 | 0.00108 mol, 1.014 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-methyl-4-nitro-5-isopropoxy-phenylboronic acid pinacol ester | CC1=C(C=C(C(=C1)[N+](=O)[O-])OC(C)C)B1OC(C)(C)C(C)(C)O1 | C16H24BNO5
